US04971982
1 g of 4-(5-amino-2-pyridyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile was dissolved in 15 ml of dichloromethane and 1 g of m-chloroperbenzoic acid was added. After stirring at room temperature for 1 hour a further 0.5 g of m-chloroperbenzoic acid was added. After stirring at room temperature overnight the mixture was washed in succession with sodium bisulphite solution, sodium bicarbonate solution and water, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using firstly 10% (v/v) methanol/ethyl acetate and then 20% (v/v) methanol/ethyl acetate for the elution. The product, 5-amino-2-(6-cyano-2,2-dimethyl-2H-1-benzopyran-4-yl)-pyridine, was converted into the hydrochloride salt which was recrystallized from isopropanol. There were obtained 238 mg of 5-amino-2-(6-cyano-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide hydrochloride of melting point 235°-237° C.

reactant | 4-(5-amino-2-pyridyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 1 g | NC=1C=CC(=NC1)C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | C17H15N3O
reactant | m-chloroperbenzoic acid | 1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 0.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 5-amino-2-(6-cyano-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide hydrochloride | 238 mg | Cl.NC=1C=CC(=[N+](C1)[O-])C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | InChI=1S/C17H15N3O2.ClH/c1-17(2)8-14(15-5-4-12(19)10-20(15)21)13-7-11(9-18)3-6-16(13)22-17;/h3-8,10H,19H2,1-2H3;1H
